US08097688B2
60 g of hydroxyethyl benzene thiol and 44.7 g of chloride acrylate were reacted in 244 g of pyridine at 25° C. for 4 hours and then formed by distillation into 2-(phenylthio)ethyl acrylate with 80% yield. A synthetic monomer 6 was obtained with 82% yield in the same manner as in Synthesis Example 1 except that 2-(phenylthio)ethyl acrylate was used in place of phenoxyethyl acrylate.

reactant | hydroxyethyl benzene thiol | 60 g | OCCC1=C(C=CC=C1)S | C8H10OS
reactant | chloride acrylate | 44.7 g | C(C=C)(=O)[O-].[Cl-]
reactant | pyridine | 244 g | N1=CC=CC=C1 | C5H5N
product | 2-(phenylthio)ethyl acrylate | 80% yield | C(C=C)(=O)OCCSC1=CC=CC=C1 | C11H12O2S
